* Created by KLayout
*** My special header ***

* cell tr_1um_AUDIO_OPAMP07
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_AUDIO_OPAMP07 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9
+ VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -885.9,-765.4
X$2 P10 P7 P4 P11 P14 P9 P6 P5 P13 P12 VSS mac
* cell instance $3 r0 *1 0,0
X$3 P15 P1 P2 VDD P3 VSS AUDIO_OPAMP01
.ENDS tr_1um_AUDIO_OPAMP07

* cell mac
* pin cout
* pin x
* pin VMID
* pin sum
* pin VDD
* pin cin
* pin a
* pin b
* pin and_out
* pin or_out
* pin VSS
.SUBCKT mac cout x VMID sum VDD cin a b and_out or_out VSS
* cell instance $1 r0 *1 180,123.2
X$1 VDD cout VMID x \$3 cin sum VSS full_adder
* cell instance $2 r0 *1 20,500
X$2 \$12 VDD \$13 b a \$3 VSS mul
* cell instance $3 r0 *1 1360,600
X$3 \$16 VDD or_out VSS inverter
* cell instance $4 r0 *1 1160,600
X$4 \$13 VDD \$16 VSS inverter
* cell instance $5 r0 *1 960,600
X$5 \$12 VDD and_out VSS inverter
.ENDS mac

* cell AUDIO_OPAMP01
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT AUDIO_OPAMP01 \$1 \$2 \$3 \$4 \$5 VSS
* cell instance $1 r0 *1 -507.4,580.3
X$1 \$4 \$1 \$3 \$5 \$2 VSS opamp_r2r_itoumizuki
.ENDS AUDIO_OPAMP01

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell full_adder
* pin VDD
* pin cout
* pin VMID
* pin a
* pin b
* pin cin
* pin sum
* pin VSS
.SUBCKT full_adder VDD cout VMID a b cin sum VSS
* cell instance $1 r0 *1 1468.45,-98.25
X$1 \$1 VDD cout VSS inverter
* cell instance $2 r0 *1 1312,-98.25
X$2 VMID VDD \$1 \$15 \$8 VSS nany
* cell instance $4 r0 *1 -96.05,-98.25
X$4 \$15 VMID VDD \$11 a b VSS half_adder
* cell instance $5 r0 *1 600.9,-98.25
X$5 \$8 VMID VDD sum \$11 cin VSS half_adder
.ENDS full_adder

* cell mul
* pin t1
* pin VDD
* pin t3
* pin b
* pin a
* pin p
* pin VSS
.SUBCKT mul t1 VDD t3 b a p VSS
* cell instance $1 r0 *1 640,100
X$1 VDD t1 t3 p VSS mul_nand
* cell instance $2 r0 *1 40,100
X$2 VDD a b t1 VSS mul_nand
* cell instance $3 r0 *1 240,100
X$3 VDD a b \$7 VSS mul_nor
* cell instance $4 r0 *1 440,100
X$4 \$7 VDD t3 VSS mul_inv
.ENDS mul

* cell opamp_r2r_itoumizuki
* pin VDD
* pin OUT
* pin INP
* pin 
* pin VB
* pin VSS
.SUBCKT opamp_r2r_itoumizuki VDD OUT INP \$14 VB VSS
* cell instance $1 r0 *1 109.8,-136.6
X$1 \$23 \$16 \$1 \$20 \$14 INP \$21 \$11 \$18 VDD \$12 VSS
+ opamp_r2r_diff_itoumizuki
* cell instance $6 r0 *1 602.8,25.8
X$6 \$21 \$18 \$3 \$16 \$4 \$17 \$2 \$15 VDD \$5 \$11 \$1 \$20 VSS
+ opamp_r2r_cascode
* cell instance $7 r90 *1 1138.2,-81.8
X$7 OUT \$3 VDD \$4 \$5 \$2 VSS opamp_r2r_ABAMP_itoumizuki
* cell instance $16 r0 *1 0,0
X$16 \$16 \$23 \$12 \$15 \$11 \$17 VB VDD VSS opamp_r2r_CS
.ENDS opamp_r2r_itoumizuki

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r270 *1 -130,0
X$1 VSS PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r270 *1 130,0
X$1 VDD PAD|VSS OSS_NCH_ESD
* cell instance $2 r90 *1 -130,0
X$2 PAD|VSS VDD OSS_PCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $1 r90 *1 130,0
X$1 PAD VSS OSS_NCH_ESD
* cell instance $3 r90 *1 -130,0
X$3 PAD VDD OSS_PCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell half_adder
* pin carry
* pin VMID
* pin VDD
* pin sum
* pin a
* pin b
* pin VSS
.SUBCKT half_adder carry VMID VDD sum a b VSS
* cell instance $1 r0 *1 496,200
X$1 VMID VDD carry \$9 \$10 VSS nany
* cell instance $2 r0 *1 508,0
X$2 VMID VDD sum \$13 carry VSS nany
* cell instance $3 r0 *1 184,0
X$3 VMID VDD \$12 \$8 carry VSS nany
* cell instance $4 r0 *1 328,200
X$4 VMID VDD \$10 b \$8 VSS nany
* cell instance $5 r0 *1 160,200
X$5 VMID VDD \$8 a b VSS nany
* cell instance $6 r0 *1 40,200
X$6 a VDD \$9 VSS inverter
* cell instance $7 r0 *1 352,0
X$7 \$12 VDD \$13 VSS inverter
.ENDS half_adder

* cell mul_inv
* pin vin
* pin VDD
* pin vout
* pin VSS
.SUBCKT mul_inv vin VDD vout VSS
* device instance $1 r0 *1 13.2,44 PMOS
XM$1 \$1 vin VDD VDD PMOS L=1u W=13.5u AS=37.8p AD=37.8p PS=32.6u PD=32.6u
* device instance $2 r0 *1 13.2,14 NMOS
XM$2 \$3 vin VSS VSS NMOS L=1u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $3 r0 *1 64,45 F_RR
XR$3 \$1 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $4 r0 *1 64,32 F_RR
XR$4 \$3 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS mul_inv

* cell mul_nor
* pin V+
* pin a
* pin b
* pin vout
* pin V-
.SUBCKT mul_nor V+ a b vout V\x2d
* device instance $1 r0 *1 20,96 PMOS
XM$1 \$18 a V+ V+ PMOS L=1u W=37u AS=103.6p AD=103.6p PS=79.6u PD=79.6u
* device instance $2 r0 *1 35,96 PMOS
XM$2 \$4 b \$18 V+ PMOS L=1u W=37u AS=103.6p AD=103.6p PS=79.6u PD=79.6u
* device instance $3 r0 *1 35,16 NMOS
XM$3 \$1 b V\x2d V\x2d NMOS L=1u W=6.5u AS=18.2p AD=18.2p PS=18.6u PD=18.6u
* device instance $4 r0 *1 20,16 NMOS
XM$4 \$1 a V\x2d V\x2d NMOS L=1u W=6.5u AS=18.2p AD=18.2p PS=18.6u PD=18.6u
* device instance $5 r0 *1 90,42 F_RR
XR$5 \$1 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $6 r0 *1 90,78 F_RR
XR$6 \$4 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS mul_nor

* cell mul_nand
* pin V+
* pin a
* pin b
* pin vout
* pin V-
.SUBCKT mul_nand V+ a b vout V\x2d
* device instance $1 r0 *1 20,96 PMOS
XM$1 \$3 a V+ V+ PMOS L=1u W=19u AS=53.2p AD=53.2p PS=43.6u PD=43.6u
* device instance $2 r0 *1 35,96 PMOS
XM$2 \$3 b V+ V+ PMOS L=1u W=19u AS=53.2p AD=53.2p PS=43.6u PD=43.6u
* device instance $3 r0 *1 20,16 NMOS
XM$3 \$20 a \$5 V\x2d NMOS L=1u W=13u AS=36.4p AD=36.4p PS=31.6u PD=31.6u
* device instance $4 r0 *1 35,16 NMOS
XM$4 V\x2d b \$20 V\x2d NMOS L=1u W=13u AS=36.4p AD=36.4p PS=31.6u PD=31.6u
* device instance $5 r0 *1 90,42 F_RR
XR$5 \$5 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $6 r0 *1 90,78 F_RR
XR$6 \$3 vout V+ F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS mul_nand

* cell opamp_r2r_ABAMP_itoumizuki
* pin OUT
* pin 
* pin VDD
* pin CAP_N
* pin CAP_P
* pin 
* pin VSS
.SUBCKT opamp_r2r_ABAMP_itoumizuki OUT \$2 VDD CAP_N CAP_P \$7 VSS
* device instance $1 r270 *1 191.8,203.2 PMOS
XM$1 OUT \$7 VDD VDD PMOS L=4u W=576u AS=895.2p AD=895.2p PS=674.6u PD=674.6u
* device instance $25 r270 *1 30,161.2 NMOS
XM$25 OUT \$2 VSS VSS NMOS L=4u W=288u AS=463.2p AD=463.2p PS=350.6u PD=350.6u
* device instance $37 r0 *1 161.8,376.1 F_CSIO
XC$37 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
* device instance $38 r0 *1 62.4,276.7 F_CSIO
XC$38 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=2
.ENDS opamp_r2r_ABAMP_itoumizuki

* cell opamp_r2r_cascode
* pin INP_P
* pin INM_P
* pin AB_N
* pin BNI
* pin CAP_N
* pin BNF
* pin AB_P
* pin BPF
* pin VDD
* pin CAP_P
* pin BPI
* pin INP_N
* pin INM_N
* pin VSS
.SUBCKT opamp_r2r_cascode INP_P INM_P AB_N BNI CAP_N BNF AB_P BPF VDD CAP_P BPI
+ INP_N INM_N VSS
* cell instance $1 m90 *1 -126,-100
X$1 AB_N INP_P BNI VSS NFET_CASCODE_MID
* cell instance $2 r0 *1 -30,-50
X$2 CAP_N \$12 INP_P VSS NFET_PHESE
* cell instance $3 m90 *1 -112,-150
X$3 INP_P \$6 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $4 r0 *1 -60,-150
X$4 VSS INP_P VSS VSS NFET_ZEROCAN
* cell instance $11 r0 *1 -196,-150
X$11 INM_P \$6 VSS VSS NFET_CASCODE_BOTTOM
* cell instance $12 r0 *1 -182,-100
X$12 \$6 INM_P BNI VSS NFET_CASCODE_MID
* cell instance $15 r0 *1 -30,-100
X$15 \$12 \$5 \$12 VSS NFET_ZEROCAN
* cell instance $16 r0 *1 -30,-150
X$16 \$5 VSS \$5 VSS NFET_ZEROCAN
* cell instance $17 m90 *1 -160,0
X$17 VDD \$20 \$6 BPF PFET_CASCODE_BOTTOM
* cell instance $18 r0 *1 -240,0
X$18 VDD \$20 \$6 VDD PFET_CASCODE_BOTTOM
* cell instance $19 r0 *1 -221,-50
X$19 VSS \$6 \$20 VSS NFET_CASCODE_TOP
* cell instance $21 m90 *1 -179,-50
X$21 BNF \$6 \$20 VSS NFET_CASCODE_TOP
* cell instance $23 m90 *1 -68,0
X$23 VDD AB_P AB_N VDD PFET_CASCODE_BOTTOM
* cell instance $24 r0 *1 -148,0
X$24 VDD AB_P AB_N BPF PFET_CASCODE_BOTTOM
* cell instance $25 r0 *1 10,-100
X$25 AB_N VSS \$13 VSS NFET_ZEROCAN
* cell instance $26 m90 *1 -87,-50
X$26 VSS AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $27 r0 *1 -129,-50
X$27 BNF AB_N AB_P VSS NFET_CASCODE_TOP
* cell instance $30 r0 *1 -50,45
X$30 VDD VDD \$12 AB_P PFET_ZEROCAN
* cell instance $33 r0 *1 -50,0
X$33 INP_N VDD CAP_P \$13 PFET_PHESE
* cell instance $34 r0 *1 -4,45
X$34 VDD \$53 \$13 \$13 PFET_ZEROCAN
* cell instance $37 r0 *1 -208,45
X$37 INM_N VDD BPI \$20 PFET_CASCODE_MID
* cell instance $38 r0 *1 -236,90
X$38 VDD VDD INM_N \$20 PFET_CASCODE_TOP
* cell instance $39 m90 *1 -72,90
X$39 VDD VDD INP_N \$20 PFET_CASCODE_TOP
* cell instance $51 m90 *1 -100,45
X$51 INP_N VDD BPI AB_P PFET_CASCODE_MID
* cell instance $58 r0 *1 -4,90
X$58 VDD VDD \$53 \$53 PFET_ZEROCAN
* cell instance $59 r0 *1 -60,90
X$59 VDD VDD INP_N VDD PFET_ZEROCAN
.ENDS opamp_r2r_cascode

* cell opamp_r2r_CS
* pin BNI
* pin BNO
* pin BPO
* pin BPF
* pin BPI
* pin BNF
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_CS BNI BNO BPO BPF BPI BNF VB VDD VSS
* cell instance $1 r0 *1 -240.2,-130.4
X$1 VSS \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $2 r0 *1 -194.1,-87.6
X$2 BNO BNI \$9 VSS NFET_CS_TOP
* cell instance $3 r0 *1 -240.2,39
X$3 VDD VDD BNI VB PFET_CS_BOTTOM
* cell instance $4 r0 *1 5.2,-87.6
X$4 \$22 BNI \$5 VSS NFET_CS_TOP
* cell instance $5 r0 *1 -101,-87.6
X$5 BPI BNI \$8 VSS NFET_CS_TOP
* cell instance $6 r0 *1 -54.8,-87.6
X$6 BPO BNI \$7 VSS NFET_CS_TOP
* cell instance $7 r0 *1 65.2,-87.6
X$7 BPF BNI \$4 VSS NFET_CS_TOP
* cell instance $8 r0 *1 -240.2,-44.8
X$8 \$13 BNI BNI VSS NFET_CS_BOTTOM
* cell instance $9 r0 *1 -240.2,-87.6
X$9 \$13 \$6 BNI VSS NFET_CS_BOTTOM
* cell instance $10 r0 *1 -267.3,-44.8
X$10 VSS BNI VSS VSS NFET_CS_BOTTOM
* cell instance $11 m90 *1 -160,39
X$11 VDD VDD BNO VB PFET_CS_BOTTOM
* cell instance $12 r0 *1 65.2,-130.4
X$12 VSS BNO \$4 VSS NFET_CS_TOP
* cell instance $13 r0 *1 -54.8,-130.4
X$13 VSS BNO \$7 VSS NFET_CS_TOP
* cell instance $14 r0 *1 -101,-130.4
X$14 VSS BNO \$8 VSS NFET_CS_TOP
* cell instance $15 r0 *1 -194.1,-130.4
X$15 VSS BNO \$9 VSS NFET_CS_TOP
* cell instance $20 r0 *1 5.2,-130.4
X$20 VSS \$22 \$5 VSS NFET_CS_TOP
* cell instance $41 r0 *1 -54.8,39
X$41 \$43 VDD BPI BPO PFET_CS_TOP
* cell instance $42 r0 *1 5.2,81
X$42 VDD VDD BPO \$44 PFET_CS_TOP
* cell instance $43 r0 *1 -54.8,81
X$43 VDD VDD BPO \$43 PFET_CS_TOP
* cell instance $48 r0 *1 65.2,0
X$48 \$38 VDD BPF BPF PFET_CS_TOP
* cell instance $49 r0 *1 5.2,-44.8
X$49 BNF BNF \$22 VSS NFET_CS_TOP
* cell instance $52 r0 *1 -148,0
X$52 VDD VDD BPI VDD PFET_CS_BOTTOM
* cell instance $53 r0 *1 -101,0
X$53 VDD \$51 BPI BPI PFET_CS_BOTTOM
* cell instance $54 r0 *1 65.2,39
X$54 \$45 VDD BPI \$38 PFET_CS_TOP
* cell instance $55 r0 *1 5.2,39
X$55 \$44 VDD BPI BNF PFET_CS_TOP
* cell instance $56 r0 *1 -101,81
X$56 VDD VDD \$56 BPI PFET_CS_BOTTOM
* cell instance $57 r0 *1 -101,39
X$57 VDD \$56 \$51 BPI PFET_CS_BOTTOM
* cell instance $70 r0 *1 65.2,81
X$70 VDD VDD \$38 \$45 PFET_CS_TOP
.ENDS opamp_r2r_CS

* cell opamp_r2r_diff_itoumizuki
* pin 
* pin 
* pin INP_N
* pin INM_N
* pin 
* pin 
* pin INP_P
* pin 
* pin 
* pin VDD
* pin 
* pin VSS
.SUBCKT opamp_r2r_diff_itoumizuki \$10 \$23 INP_N INM_N \$36 \$38 INP_P \$58
+ \$60 VDD \$94 VSS
* device instance $1 r0 *1 146.3,176.1 PMOS
XM$1 \$59 \$36 \$60 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $5 r0 *1 82.9,176.1 PMOS
XM$5 \$59 \$38 INP_P VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $9 r0 *1 146.3,216.1 PMOS
XM$9 \$73 \$58 \$59 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $13 r0 *1 82.9,216.1 PMOS
XM$13 \$72 \$58 \$59 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $17 r0 *1 82.9,256.1 PMOS
XM$17 \$72 \$94 VDD VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $21 r0 *1 146.3,256.1 PMOS
XM$21 \$73 \$94 VDD VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $25 r0 *1 89.9,49.2 NMOS
XM$25 VSS \$10 \$2 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $27 r0 *1 89.9,89.2 NMOS
XM$27 \$17 \$23 \$2 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $29 r0 *1 153.3,89.2 NMOS
XM$29 \$17 \$23 \$3 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $31 r0 *1 153.3,49.2 NMOS
XM$31 VSS \$10 \$3 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $33 r0 *1 153.3,129.2 NMOS
XM$33 INM_N \$36 \$17 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $35 r0 *1 89.9,129.2 NMOS
XM$35 INP_N \$38 \$17 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS opamp_r2r_diff_itoumizuki

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 VDD VDD PAD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 VSS VSS PAD VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD

* cell nany
* pin VMID
* pin VDD
* pin vout
* pin a
* pin b
* pin VSS
.SUBCKT nany VMID VDD vout a b VSS
* device instance $1 r0 *1 50,88 PMOS
XM$1 \$3 a vout VDD PMOS L=1u W=14u AS=39.2p AD=39.2p PS=33.6u PD=33.6u
* device instance $2 r0 *1 65,88 PMOS
XM$2 \$14 b vout VDD PMOS L=1u W=14u AS=39.2p AD=39.2p PS=33.6u PD=33.6u
* device instance $3 r0 *1 20,88 PMOS
XM$3 \$32 a VDD VDD PMOS L=1u W=34u AS=95.2p AD=95.2p PS=73.6u PD=73.6u
* device instance $4 r0 *1 35,88 PMOS
XM$4 \$7 b \$32 VDD PMOS L=1u W=34u AS=95.2p AD=95.2p PS=73.6u PD=73.6u
* device instance $5 r0 *1 50,15 NMOS
XM$5 \$3 b VMID VSS NMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $6 r0 *1 65,15 NMOS
XM$6 \$14 a VMID VSS NMOS L=1u W=8u AS=22.4p AD=22.4p PS=21.6u PD=21.6u
* device instance $7 r0 *1 20,15 NMOS
XM$7 \$35 a \$1 VSS NMOS L=1u W=11u AS=30.8p AD=30.8p PS=27.6u PD=27.6u
* device instance $8 r0 *1 35,15 NMOS
XM$8 VSS b \$35 VSS NMOS L=1u W=11u AS=30.8p AD=30.8p PS=27.6u PD=27.6u
* device instance $9 r0 *1 112.5,42 F_RR
XR$9 \$1 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $10 r0 *1 112.5,72 F_RR
XR$10 \$7 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS nany

* cell inverter
* pin vin
* pin VDD
* pin vout
* pin VSS
.SUBCKT inverter vin VDD vout VSS
* device instance $1 r0 *1 13.2,44 PMOS
XM$1 \$1 vin VDD VDD PMOS L=1u W=13.5u AS=37.8p AD=37.8p PS=32.6u PD=32.6u
* device instance $2 r0 *1 13.2,14 NMOS
XM$2 \$3 vin VSS VSS NMOS L=1u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $3 r0 *1 64,45 F_RR
XR$3 \$1 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
* device instance $4 r0 *1 64,32 F_RR
XR$4 \$3 vout VDD F_RR R=10.7142857143 L=30u W=2.8u A=84p P=65.6u m=1
.ENDS inverter

* cell PFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_TOP \$1 \$2 \$3 \$8
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$1 \$8 \$3 \$2 PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
.ENDS PFET_CASCODE_TOP

* cell PFET_PHESE
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_PHESE \$1 \$2 \$3 \$6
* device instance $1 r0 *1 11.9,16.2 PMOS
XM$1 \$1 \$6 \$3 \$2 PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
.ENDS PFET_PHESE

* cell NFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_BOTTOM \$1 \$2 \$5 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$5 \$2 \$1 VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS NFET_CASCODE_BOTTOM

* cell NFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_MID \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$2 \$3 \$1 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS NFET_CASCODE_MID

* cell PFET_CASCODE_MID
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_MID \$1 \$2 \$3 \$7
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$1 \$3 \$7 \$2 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS PFET_CASCODE_MID

* cell NFET_PHESE
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_PHESE \$1 \$2 \$5 VSS
* device instance $1 r0 *1 4.8,20.6 NMOS
XM$1 \$5 \$2 \$1 VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
.ENDS NFET_PHESE

* cell NFET_CASCODE_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CASCODE_TOP \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$3 \$1 \$2 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_CASCODE_TOP

* cell NFET_ZEROCAN
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_ZEROCAN \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,19.3 NMOS
XM$1 \$3 \$1 \$2 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
.ENDS NFET_ZEROCAN

* cell PFET_ZEROCAN
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_ZEROCAN \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$2 \$5 \$3 \$1 PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS PFET_ZEROCAN

* cell PFET_CASCODE_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CASCODE_BOTTOM \$1 \$2 \$3 \$5
* device instance $1 r0 *1 11.8,16.2 PMOS
XM$1 \$2 \$5 \$3 \$1 PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS PFET_CASCODE_BOTTOM

* cell NFET_CS_TOP
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_TOP \$1 \$2 \$4 VSS
* device instance $1 r0 *1 4.8,17.6 NMOS
XM$1 \$4 \$2 \$1 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
.ENDS NFET_CS_TOP

* cell NFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT NFET_CS_BOTTOM \$1 \$2 \$3 VSS
* device instance $1 r0 *1 4.8,16.3 NMOS
XM$1 \$2 \$3 \$1 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
.ENDS NFET_CS_BOTTOM

* cell PFET_CS_TOP
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_TOP \$1 \$2 \$3 \$6
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$1 \$3 \$6 \$2 PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
.ENDS PFET_CS_TOP

* cell PFET_CS_BOTTOM
* pin 
* pin 
* pin 
* pin 
.SUBCKT PFET_CS_BOTTOM \$1 \$2 \$3 \$4
* device instance $1 r0 *1 11.8,13.2 PMOS
XM$1 \$2 \$4 \$3 \$1 PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
.ENDS PFET_CS_BOTTOM
